US08957069B2
1-(4-Chloro-3-methylphenyl)-4-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine
By using 1-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine (274 mg, 1.00 mmol) synthesized in Reference example 61 and 4-bromo-1-chloro-2-methylbenzene (308 mg, 1.50 mmol), the reaction was carried out in the same manner as Example 23 to obtain the title compound 60 mg (yield 15%).

reactant | 1-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine | 1.00 mmol, 274 mg | CC1(OC2=C(C1)C(=C(C(=C2C)C)N2CCNCC2)C)C | C17H26N2O
reactant | 4-bromo-1-chloro-2-methylbenzene | 1.50 mmol, 308 mg | BrC1=CC(=C(C=C1)Cl)C | C7H6BrCl
product | 1-(4-Chloro-3-methylphenyl)-4-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine | 60 mg, yield 15% | ClC1=C(C=C(C=C1)N1CCN(CC1)C=1C(=C(C2=C(CC(O2)(C)C)C1C)C)C)C | C24H31ClN2O
